US07902252B2
2.85. Synthesis of 4-(3-bromobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (63)
The title compound was synthesized from methyl 4-(3-bromobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.099 g, 0.30 mmol, 1 equiv) and lithium hydroxide (0.124 g, 2.96 mmol), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (2 mL) was used. The resulting product was purified by reverse phase HPLC, eluting with a gradient of 40-100% MeOH: water (with 0.1% formic acid) to the title compound: 37 mg, 39% yield. 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.03-2.11 (m, 1H), 2.48-2.57 (m, 1H), 2.60-2.64 (m, 2H), 2.75 (dd, J1=7.32 Hz, J2=3.71 Hz, 2H), 3.21-3.28 (m, 1H), 6.31 (s, 1H), 7.14-7.20 (m, 2H), 7.32-7.35 (m, 2H); LCMS-MS (ESI−) 318.0 (M−H); HPLC (UV=98.99%), (ELSD=100%).

reactant | methyl 4-(3-bromobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.30 mmol, 0.099 g, 1 equiv | BrC=1C=C(CC2CCC=3NC(=CC32)C(=O)OC)C=CC1 | C16H16BrNO2
reactant | lithium hydroxide | 2.96 mmol, 0.124 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(3-bromobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 39% yield | BrC=1C=C(CC2CCC=3NC(=CC32)C(=O)O)C=CC1 | C15H14BrNO2
